US03986877
co(acrylamide/β-ethylthioethyl-acrylate)
In a 2 liters reaction vessel fitted with stirrer, reflux condenser, nitrogen inlet tube and thermometer, 60 g of β-ethylthioethyl-acrylate, 140 g of acrylamide, 2 g of n-lauryl-mercaptan and 5 g of azo-bis-isobutyronitrile were dissolved in a mixture of 650 ml of isopropanol and 350 ml of water.

reactant | β-ethylthioethyl-acrylate | 60 g | C(C)SCCOC(C=C)=O | C7H12O2S
reactant | acrylamide | 140 g | C(C=C)(=O)N | C3H5NO
reactant | azo-bis-isobutyronitrile | 5 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | isopropanol | 650 ml | C(C)(C)O | C3H8O
solvent | water | 350 ml | O | H2O
product | acrylamide β-ethylthioethyl-acrylate | C(C=C)(=O)N.C(C)SCCOC(C=C)=O | InChI=1S/C7H12O2S.C3H5NO/c1-3-7(8)9-5-6-10-4-2;1-2-3(4)5/h3H,1,4-6H2,2H3;2H,1H2,(H2,4,5)
